* NGSPICE file created from inverter.ext - technology: gf180mcuD

.subckt inverter VCC VSS A Y
X0 Y A VSS VSS nfet_03v3 ad=0.1619p pd=1.68u as=0.1619p ps=1.68u w=0.25u l=0.3u
**devattr s=13432,524 d=6476,336
X1 Y A VCC VCC pfet_03v3 ad=0.1619p pd=1.68u as=0.1619p ps=1.68u w=0.25u l=0.3u
**devattr s=13432,524 d=6476,336
.ends

