* NGSPICE file created from inverter.ext - technology: gf180mcuD

.subckt inverter VCC VSS A Y
X0 Y A VSS VSS nfet_03v3 ad=0.1619p pd=1.68u as=0.1619p ps=1.68u w=0.25u l=0.3u
**devattr s=13432,524 d=6476,336
X1 Y A VCC VCC pfet_03v3 ad=0.235p pd=1.94u as=0.235p ps=1.94u w=0.5u l=0.3u
**devattr s=18800,576 d=9400,388
.ends

